US07560546B2
Step A: tert-Butyl 4-but-3-enyl-3-oxopiperazine-1-carboxylate
To a solution of tert-butyl 3-oxopiperazine-1-carboxylate (0.500 mg, 2.50 mmol) in 10 mL of DMF at 0° C. was added NaH as a 60% dispersion in mineral oil (2.62 mmol), and the reaction was stirred for 45 minutes. 4-Bromo-1-butene was added (0.280 mL, 2.75 mmol) dropwise as a solution in 1 mL of THF. The solution was stirred overnight, allowing it to warm to room temperature. The reaction was partitioned between EtOAc and saturated NaHCO3 solution. The organic phase was washed with brine, dried (Na2SO4), filtered, and concentrated in vacuo to give the titled compound. Proton NMR for the product was consistent with the titled compound. ESI+MS: 255.1 [M+H]+.

reactant | tert-butyl 3-oxopiperazine-1-carboxylate | 2.50 mmol, 0.500 mg | O=C1CN(CCN1)C(=O)OC(C)(C)C | C9H16N2O3
reactant | NaH | [H-].[Na+]
reactant | 4-Bromo-1-butene | BrCCC=C | C4H7Br
solvent | DMF | 10 mL | CN(C)C=O | C3H7NO
solvent | THF | 1 mL | C1CCOC1 | C4H8O
product | tert-Butyl 4-but-3-enyl-3-oxopiperazine-1-carboxylate | C(CC=C)N1C(CN(CC1)C(=O)OC(C)(C)C)=O | C13H22N2O3
